US05204468
Ii)2.0 g of (R)-(+)-7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline was dissolved in 10 ml of dichloromethane; after adding 0.86 ml of anhydrous acetic acid thereto at room temperature, the mixture was allowed to react for 30 minutes. The reaction solution was concentrated and subjected twice to azeotropic distillation with toluene. Then dichloromethane was added and the mixture was basified by adding 1N aqueous sodium hydroxide. After separation, the dichloromethane layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resulting residue was recrystallized from ethylacetate-n-hexane, affording 2.12 g of (R)-(-)-N-acetyl-7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline. m.p. 128° C.; [α]D20 =-39° (C=1,CHCl3).

reactant | (R)-(+)-7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 2.0 g | COC1=CC=C2[C@H](CNCC2=C1OC)C1=CC(=C(C=C1)OC)OC | C19H23NO4
reactant | acetic acid | 0.86 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-(-)-N-acetyl-7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 2.12 g | C(C)(=O)N1CC2=C(C(=CC=C2[C@H](C1)C1=CC(=C(C=C1)OC)OC)OC)OC | C21H25NO5
